US07598249B2
4-Phenylcarbamoyl-piperazine-1-carboxylic acid tert-butyl ester (intermediate)
A solution of piperazine-1-carboxylic acid tert-butyl ester (114 g) in DCM (500 mL) was cooled in an ice bath and treated with phenyl isocyanate (65 mL). After 1 hour (h), the bath was removed. After 15 h, the resulting mixture was filtered and the solid was washed with dichloromethane (DCM, 2×100 mL), giving the title compound as a white amorphous solid (95 g).

reactant | piperazine-1-carboxylic acid tert-butyl ester | 114 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | phenyl isocyanate | 65 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | DCM | 500 mL | ClCCl | CH2Cl2
product | 4-Phenylcarbamoyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(NC1=CC=CC=C1)=O | C16H23N3O3
